US07135480B2
1-Benzoyl-3-cyano-6,7,8,9-tetrahydro-pyrrolo[1,2-a]quinoline
1-(Phenacyl)-5,6,7,8-tetrahydro-quinolinium bromide: The title compound was prepared from 2-bromo-1-phenyl-ethanone (507.7 mg, 2.55 mmol), 5,6,7,8-tetrahydro-quinoline (275 μL, 2.13 mmol) and acetonitrile (4.2 mL), similar to Example 1a, and yielded 694 mg (98%) as a light tan solid. 1H NMR (DMSO-d6): 8.80 (d, J=6.05 Hz, 1H), 8.45 (d, J=7.70 Hz, 1H), 8.11 (d, J=7.97 Hz, 2H), 8.00 (dd, J=7.69, 6.31 Hz, 1H), 7.82 (t, J=7.42 Hz, 1H), 7.68 (t, J=7.56 Hz, 1H), 6.52 (s, 2H), 3.02 (t, J=6.18 Hz, 2H), 2.92 (t, J=6.18 Hz, 2H), 1.85 (m, 2H), 1.77 (m, 2H).

reactant | 1-(Phenacyl)-5,6,7,8-tetrahydro-quinolinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=CC=2CCCCC12
reactant | 2-bromo-1-phenyl-ethanone | 2.55 mmol, 507.7 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 5,6,7,8-tetrahydro-quinoline | 2.13 mmol, 275 μL | N1=CC=CC=2CCCCC12 | C9H11N
solvent | acetonitrile | 4.2 mL | C(C)#N | C2H3N
product | 1-Benzoyl-3-cyano-6,7,8,9-tetrahydro-pyrrolo[1,2-a]quinoline | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1C=1CCCCC1C=C2)C#N | C20H16N2O
